US06124046
(1) Preparation of 2,5-dihexylbenzene
Nitrogen was introduced into a flask (250 ml), and 10 ml of anhydrous diethyl ether was added, and 15 g of magnesium was added, and stirred. Hexyl bromide (0.61 mole) of 100 g mixed with 50 ml of diethylether was poured into a dropping funnel, and the mixture therein was slowly added into the flask over 1 hour. The reaction was carried out at 45° C. for 3 hours. The reaction product, Grignard, was poured into a dropping funnel. To the reactant was slowly added a mixture of 42 g of 1,4-dichlorobenzene (0.29 mol), 0.3 g of NiCl2 and 80 ml of diethylether, and the reaction was carried out at room temperature for 24 hours to obtain solid reaction product. 6 N HCl was slowly added so as to neutralize the solid reaction product, the product was extracted with diethyl ether and dried with anhydrous MgSO4, and the reaction product was separated by vacuum distillation (122° C./0.1 mmHg). The structure analysis of the compound was confirmed by 1H-NMR, which was shown in FIG. 3.

reactant | magnesium | 15 g | [Mg] | Mg
reactant | Hexyl bromide | 0.61 mole | C(CCCCC)Br | C6H13Br
reactant | 1,4-dichlorobenzene | 0.29 mol, 42 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | HCl | 6 N | Cl | ClH
catalyst | NiCl2 | 0.3 g | Cl[Ni]Cl
solvent | diethylether | 80 ml | C(C)OCC | C4H10O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2,5-dihexylbenzene | C(CCCCC)C1=CC=C(C=C1)CCCCCC | C18H30
